US08304556B2
D-01a) N-[1-(2-Chloro-4-nitro-phenyl)-3-(6-methyl-pyridin-3-yl)-4,5-dihydro-1H-pyrazolo[4,3-g]benzothiazol-7-yl]-acetamide
A suspension of 5.0 g (15.2 mmol) N-[6-(6-methyl-pyridine-3-carbonyl)-7-oxo-4,5,6,7-tetrahydro-benzothiazol-2-yl]-acetamide (A-23) and 3.74 g (16.7 mmol) (2-chloro-4-nitro-phenyl)-hydrazine hydrochloride in 100 mL glacial acetic acid is stirred at 60° C. After stirring for 24 h at 60° C. the solvent is evaporated, the residue taken up in 200 mL of ACN and stirred for 20 min. The solid is filtered off and dried at 40° C. yielding 5.33 g of the desired product.

reactant | N-[6-(6-methyl-pyridine-3-carbonyl)-7-oxo-4,5,6,7-tetrahydro-benzothiazol-2-yl]-acetamide | 15.2 mmol, 5.0 g | CC1=CC=C(C=N1)C(=O)C1C(C2=C(N=C(S2)NC(C)=O)CC1)=O | C16H15N3O3S
reactant | (2-chloro-4-nitro-phenyl)-hydrazine hydrochloride | 16.7 mmol, 3.74 g | Cl.ClC1=C(C=CC(=C1)[N+](=O)[O-])NN
solvent | acetic acid | 100 mL | C(C)(=O)O | C2H4O2
product | N-[1-(2-Chloro-4-nitro-phenyl)-3-(6-methyl-pyridin-3-yl)-4,5-dihydro-1H-pyrazolo[4,3-g]benzothiazol-7-yl]-acetamide | 5.33 g | ClC1=C(C=CC(=C1)[N+](=O)[O-])N1N=C(C2=C1C1=C(N=C(S1)NC(C)=O)CC2)C=2C=NC(=CC2)C | C22H17ClN6O3S
